US05043454
Isopropyl 1-(2,4-dinitrophenyl)-2-bromo-5-methyl-4-imidazolecarboxylate
4.2 ml of triethylamine was added dropwise to 5 g (0.02 mol) of isopropyl 2-bromo-5-methyl-4-imidazolecarboxylate, 3.9 g of 1-fluoro-2,4-dinitrobenzene and 200 ml of toluene, and the mixture was refluxed for 16 hours. The toluene solution was then washed with water, dried and concentrated. The residue was stirred with diethyl ether and the solid obtained in this manner was isolated.

reactant | triethylamine | 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | isopropyl 2-bromo-5-methyl-4-imidazolecarboxylate | 0.02 mol, 5 g | BrC=1NC(=C(N1)C(=O)OC(C)C)C | C8H11BrN2O2
reactant | 1-fluoro-2,4-dinitrobenzene | 3.9 g | FC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3FN2O4
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | Isopropyl 1-(2,4-dinitrophenyl)-2-bromo-5-methyl-4-imidazolecarboxylate | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])N1C(=NC(=C1C)C(=O)OC(C)C)Br | C14H13BrN4O6
